US04067981
21.2 g (0.1 mole) of 3-methoxy-7-chloro-benzo-1,2,4-triazine 1-oxide and 5 g of Raney nickel in 150 ml of ethanol were initially introduced into a stirred VA autoclave. A pressure of 15 atmospheres of hydrogen was applied at 30° C. The mixture was stirred at 30° to 50° C for 5 hours and during this time further hydrogen was fed in under pressure until the pressure remained constant. The autoclave was let down, the catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was recrystallized from wash benzine. 15.2 g. that is to say 78% of theory, of 3-methoxy-7-chlorobenzo-1,2,4-triazine with a melting point of 122° C were obtained.

reactant | 3-methoxy-7-chloro-benzo-1,2,4-triazine 1-oxide | 0.1 mole, 21.2 g | COC=1N=[N+](C2=C(N1)C=CC(=C2)Cl)[O-] | C8H6ClN3O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-methoxy-7-chlorobenzo-1,2,4-triazine | COC=1N=NC2=C(N1)C=CC(=C2)Cl | C8H6ClN3O
